US04766215
2-[4-[3-(diphenylmethoxy)propyl]-1-piperazinyl]pyrimidine
To a stirred solution of 1-(2-pyrimidinyl)-4-piperazinyl propanol 3 g. (0.013 mol) in 50 mol. of dimethylformamide was added 3.3 g. (0.013 mol) of diphenylmethylbromide and 2.9 g. (0.034 mol) of sodium bicarbonate. The reaction mixture was refluxed overnight, dimethylformamide was evaporated under reduced pressure, and the residue was extracted with methylene chloride (400 ml.). The methylene chloride extracts were collected, washed with water and evaporated, and the remaining residue was purified by HPLC to give 1.3 g. (26% yield) of the title compound. The free base which was converted to the (1:1) fumarate salt; m.p 166°-168° C.

reactant | 1-(2-pyrimidinyl)-4-piperazinyl propanol | 3 g | N1=C(N=CC=C1)N1CCN(CC1)C(CC)O | C11H18N4O
reactant | diphenylmethylbromide | 0.013 mol | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | sodium bicarbonate | 0.034 mol | C([O-])(O)=O.[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-[4-[3-(diphenylmethoxy)propyl]-1-piperazinyl]pyrimidine | 26% yield | C1(=CC=CC=C1)C(OCCCN1CCN(CC1)C1=NC=CC=N1)C1=CC=CC=C1 | C24H28N4O
